US05849958
Preparation of (4-Fluoro-3-phenoxybenzyl)triphenyl phosphonium bromide
A solution of 4-fluoro-3-phenoxybenzyl bromide (42.17 g, 0.150 mol) in toluene is added to a solution of triphenyl phosphine (41.31 g, 0.158 mol) in toluene. The resultant reaction mixture is refluxed for one hour, cooled to room temperature, and filtered to obtain a solid. The solid is washed sequentially with toluene and hexanes, and dried in a dessicator at 60° C. to give the title product (73.7 g, 90.4%) which is identified by NMR spectral analyses.

reactant | 4-fluoro-3-phenoxybenzyl bromide | 0.150 mol, 42.17 g | FC1=C(C=C(CBr)C=C1)OC1=CC=CC=C1 | C13H10BrFO
reactant | triphenyl phosphine | 0.158 mol, 41.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (4-Fluoro-3-phenoxybenzyl)triphenyl phosphonium bromide | 73.7 g, 90.4% | [Br-].FC1=C(C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)OC1=CC=CC=C1 | InChI=1S/C31H25FOP.BrH/c32-30-22-21-25(23-31(30)33-26-13-5-1-6-14-26)24-34(27-15-7-2-8-16-27,28-17-9-3-10-18-28)29-19-11-4-12-20-29;/h1-23H,24H2;1H/q+1;/p-1
